US08957064B2
4-(6-Phenyl-2-trifluoromethyl-[1,2,4]triazolo[1,5-a]pyrimidin-5-yl)-benzaldehyde
This compound was prepared in a manner according to 4-(6-phenyl[1,2,4]triazolo[1,5-a]pyrimidin-5-yl)benzaldehyde by using 5-trifluoromethyl-2H-[1,2,4]triazol-3-ylamine in the first step.

reactant | 4-(6-phenyl[1,2,4]triazolo[1,5-a]pyrimidin-5-yl)benzaldehyde | C1(=CC=CC=C1)C=1C(=NC=2N(C1)N=CN2)C2=CC=C(C=O)C=C2 | C18H12N4O
reactant | 5-trifluoromethyl-2H-[1,2,4]triazol-3-ylamine | FC(C=1N=C(NN1)N)(F)F | C3H3F3N4
product | 4-(6-Phenyl-2-trifluoromethyl-[1,2,4]triazolo[1,5-a]pyrimidin-5-yl)-benzaldehyde | C1(=CC=CC=C1)C=1C(=NC=2N(C1)N=C(N2)C(F)(F)F)C2=CC=C(C=O)C=C2 | C19H11F3N4O
